US06458227B1
3,6-Bis(1H-1,2,3,4-tetrazol-5-ylamino)-1,2,4,5-tetrazine (BTATz).
To a solution of 3,6-dichloro-1,2,4,5-tetrazine (1.51 g, 10 mmol) in acetonitrile (70 ml) was added the sodium salt of 5-amino-1H-tetrazole (2.14 g, 10 mmol). The mixture was refluxed for 24 hours then allowed to cool to room temperature. The suspension was centrifuged until the supernatant liquid was clear. The liquid was decanted and the brown solid washed successively with acetonitrile and water. With each wash the solid was separated from the solvent by centrifugation followed by decantation. The isolated crude yield was 1.5 g (60%), this material was recrystallized from DMSO/methanol yielding an orange brown powder mp 264° C. dec; 1H NMR (deuteriomethylsulfoxide) ∂ 12.5 (br s, 4H); 13C NMR (deuteriomethylsulfoxide) ∂ 151.74, 158.25; IR (KBr) 3421, 3000, 1615, 1436, 1127 cm−1. A gas pycnometer density of 1.76 g/cm3 was also determined and a drop height of 195 cm was measured (Type 12, HMX=24-27 cm).

reactant | 3,6-dichloro-1,2,4,5-tetrazine | 10 mmol, 1.51 g | ClC=1N=NC(=NN1)Cl | C2Cl2N4
reactant | sodium | [Na] | Na
reactant | 5-amino-1H-tetrazole | 10 mmol, 2.14 g | NC1=NN=NN1 | CH3N5
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 3,6-Bis(1H-1,2,3,4-tetrazol-5-ylamino)-1,2,4,5-tetrazine | N1N=NN=C1NC=1N=NC(=NN1)NC1=NN=NN1 | C4H4N14
